US04322442
50.8 g (0.2 mol) of iodine were gradually introduced into a suspension of 42 g (0.2 mol) of 3-phenyl-3-pyridin-4-yl-1-propyn-3-ol in 500 ml of methanol at room temperature, while simultaneously adding 80 ml of concentrated sodium hydroxide solution dropwise. An almost clear solution was thereby obtained. After stirring the solution at room temperture for three hours, it was diluted with a large amount of water and the crystals which had separated out were filtered off, washed with water and dried in vacuo. After recrystallization from methanol, 53 g (79.2% of theory) of 1-iodo-3-phenyl-3-pyridin-4-yl-1-propyn-3-ol were obtained as colorless crystals of melting point 175° C. (decomposition).

reactant | iodine | 0.2 mol, 50.8 g | II | I2
reactant | 3-phenyl-3-pyridin-4-yl-1-propyn-3-ol | 0.2 mol, 42 g | C1(=CC=CC=C1)C(C#C)(O)C1=CC=NC=C1 | C14H11NO
reactant | sodium hydroxide | 80 ml | [OH-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
solvent | water | O | H2O
product | 1-iodo-3-phenyl-3-pyridin-4-yl-1-propyn-3-ol | 53 g, 79.2% | IC#CC(O)(C1=CC=NC=C1)C1=CC=CC=C1 | C14H10INO
